US09340544B2
[2-(4-Chloro-3-methyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-(4-chloro-phenyl)-amine (Compound 6.7)
Was prepared according to Example 6 from (2-chloro-9-methyl-9H-purin-6-yl)(4-chloro-phenyl)-amine and 4-chloro-3-methyl-1H-pyrazole.

reactant | (2-chloro-9-methyl-9H-purin-6-yl)(4-chloro-phenyl)-amine | ClC1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)Cl | C12H9Cl2N5
reactant | 4-chloro-3-methyl-1H-pyrazole | ClC=1C(=NNC1)C | C4H5ClN2
product | [2-(4-Chloro-3-methyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-(4-chloro-phenyl)-amine | ClC=1C(=NN(C1)C1=NC(=C2N=CN(C2=N1)C)NC1=CC=C(C=C1)Cl)C | C16H13Cl2N7
